US07495112B2
To a solution of 1-(3-cyclopropylmethoxy-4-methoxy-phenyl)-2-methanesulfonyl-ethylamine (1.0 g, 3.3 mmol) in acetic acid (10 mL), was added 3-acetamido-phthalic anhydride (1.37 g, 6.7 mmol) and sodium acetate (0.54 g, 6.7 mmol). The mixture was heated at reflux temperature overnight. The solvent was removed in vacuo. The resulted oil was extracted with ethyl acetate (50 mL) and water (30 mL). The organic layer was washed with water (30 mL×2) and brine (30 mL) and dried over magnesium sulfate. The solvent was removed in vacuo and the resulted oil was purified by silica gel column to give N-{2-[1-(3-cyclopropylmethoxy-4-methoxy-phenyl)-2-methanesulfonyl-ethyl]-1,3-dioxo-2,3-dihydro-1H-isoindol-4-yl}-acetamide as a white solid (340 mg, 21%): mp 102-104° C.; 1HNMR (CDCl3) δ 0.35-0.37 (m, 2H, c-CH2), 0.62-0.67 (m, 2H, c-CH2), 0.88-0.93 (m, 2H, c-CH2), 1.25-1.32 (m, 1H, c-CH), 2.25 (s, 3H, CH3), 2.87 (s, 3H,CH3), 3.75 (dd, J=4, 15 Hz, 1H, CHH), 3.83-3.85 (m, 5H, OCH2+OCH3), 4.53 (dd, J=10, 15 Hz, 1H, CH2), 5.85 (dd, J=4, 10 Hz, 1H, NCH), 6.84 (d, J=8 Hz, 1H, Ar), 7.07-7.10 (m, 2H, Ar), 7.45 (d, J=5 Hz, 1H, Ar), 7.62 (t, J=8 Hz, 1H, Ar), 8.72 (d, J=8 Hz, 1H, Ar), 9.45 (s, 1H, NHCO); 13C NMR (CDCl3) δ 1.6, 3.2, 3.3, 24.7, 41.4, 48.3, 54,2, 55.8, 73.9, 111.5, 113.1, 115.0, 118.0, 120.3, 124.7, 129.1, 130.9, 135.9, 137.2, 148.6, 149.8, 167.2, 169.0, 169.3. Analy. Calculated for C24H26N2O7S: C 59.25; H 5.39; N 5.76. Found: C 59.00; H 5.36; N 5.55.

reactant | 1-(3-cyclopropylmethoxy-4-methoxy-phenyl)-2-methanesulfonyl-ethylamine | 3.3 mmol, 1.0 g | C1(CC1)COC=1C=C(C=CC1OC)C(CS(=O)(=O)C)N | C14H21NO4S
reactant | 3-acetamido-phthalic anhydride | 6.7 mmol, 1.37 g | C(C)(=O)NC1=C2C(C(=O)OC2=O)=CC=C1 | C10H7NO4
reactant | sodium acetate | 6.7 mmol, 0.54 g | C(C)(=O)[O-].[Na+]
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | N-{2-[1-(3-cyclopropylmethoxy-4-methoxy-phenyl)-2-methanesulfonyl-ethyl]-1,3-dioxo-2,3-dihydro-1H-isoindol-4-yl}-acetamide | 340 mg, 21% | C1(CC1)COC=1C=C(C=CC1OC)C(CS(=O)(=O)C)N1C(C2=CC=CC(=C2C1=O)NC(C)=O)=O | C24H26N2O7S
